US05852017
d) Preparation of N-(2-chloro-4,5-diacetamidophenyl)pyrrole
3 g (12.4 mmol) of 4,5-diacetamido-2-amino-1-chlorobenzene and 1.6 g (12.4 mmol) of 2,5-dimethoxytetrahydrofuran in 150 ml of acetic acid were refluxed for 30 minutes. The reaction mixture was concentrated, the residue was washed with water and ethyl acetate, and the organic phase was worked up.

reactant | 4,5-diacetamido-2-amino-1-chlorobenzene | 12.4 mmol, 3 g | C(C)(=O)NC1=CC(=C(C=C1NC(C)=O)Cl)N | C10H12ClN3O2
reactant | 2,5-dimethoxytetrahydrofuran | 12.4 mmol, 1.6 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | N-(2-chloro-4,5-diacetamidophenyl)pyrrole | ClC1=C(C=C(C(=C1)NC(C)=O)NC(C)=O)N1C=CC=C1 | C14H14ClN3O2
